US06034127
b) 1-[(2-Chlorophenoxy)methyl]-3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]benzene
To a solution of 272 mg (0.809 mmol) of 3-[(2-chlorophenoxy) methyl]phenol, as prepared in the preceding step, in methylene chloride (5 mL) containing 275 mg (1.05 mmol) of triphenylphosphine and 208 mg (0.97 mmol) of N-(tert-butoxycarbonyl)-4-piperidinemethanol, as prepared in step (b) of Example 1, was added slowly 165 μL (1.04 mmol) of diethyl azodicarboxylate. The reaction mixture was stirred at ambient temperature for 1 h. The reaction mixture was quenched with water, extracted into diethyl ether, dried (MgSO4), and flash chromatographed (hexane/ethyl acetate (1:4 to 1:2)) to give 221 mg (58% yield) of the title compound as a colorless oil. 1H-NMR (300 MHz, CDCl3) δ 7.38 (dd, 1H, J=1.5, 7.8 Hz), 7.28 (t, 1H, J=8.1 Hz), 7.15-7.21 (m, 1H), 8.82-7.03 (m, 5H), 5.13 (s, 2H), 3.82 (d, 2H, J=6.4 Hz), 2.74 (t, 2H), 1.91-2.00 (m, 1H), 1.84 (d, 2H), and 1.47 (s, 9H). Mass spectrum (MALDI-TOF; μ-cyano-4-hydroxycinnamic acid matrix) calcd. for C24H30ClNO4S: 454.2 (M+Na). Found: 454.4.

reactant | 3-[(2-chlorophenoxy) methyl]phenol | 0.809 mmol, 272 mg | ClC1=C(OCC=2C=C(C=CC2)O)C=CC=C1 | C13H11ClO2
reactant | triphenylphosphine | 1.05 mmol, 275 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(tert-butoxycarbonyl)-4-piperidinemethanol | 0.97 mmol, 208 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | diethyl azodicarboxylate | 1.04 mmol, 165 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-[(2-Chlorophenoxy)methyl]-3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]benzene | 221 mg, 58% yield | ClC1=C(OCC2=CC(=CC=C2)OCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C24H30ClNO4
